US07544748B2
Ethyl 2-propyl-3-butyl-3-oxo-propionate
A mechanically stirred suspension of sodium hydride (16.2 g of 60% dispersion in mineral oil) in 400 mL of anhydrous toluene was treated dropwise with ethyl pentanoate (50.0 g) at room temperature under nitrogen atmosphere. Upon completion of the addition, the reaction mixture was refluxed for 5 h and then cooled to room temperature, quenched by pouring onto a mixture of ice and 10% aqueous hydrochloric acid, and extracted with chloroform. The combined organic phases were washed with aqueous solution of potassium bicarbonate, then with water, dried over magnesium sulfate, filtered, concentrated on a rotary evaporator, and distilled in vacuum to give 32.0 g (79%) of the title compound.

reactant | sodium hydride | 16.2 g | [H-].[Na+]
reactant | ethyl pentanoate | 50.0 g | C(CCCC)(=O)OCC | C7H14O2
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-propyl-3-butyl-3-oxo-propionate | 32.0 g, 79% | C(CC)C(C(=O)OCC)C(=O)CCCC | C12H22O3
